US06987116B2
To a solution of 4-[5-cyano-4-(3,4,5-trimethoxyphenylamino)-thieno[2,3-b]pyridin-2-yl]-butyric acid methyl ester (1.10 g, 2.5 mmol) in 15 mL of tetrahydrofuran at room temperature is added dropwise lithium borohydride in tetrahydrofuran (10 mL, 2.0 M, 20 mmol). The mixture is heated at reflux for 1 hour, and cooled to room temperature. Methanol (20 mL) is added, and stirring is continued at room temperature overnight. The reaction mixture is partitioned between saturated aqueous sodium chloride and ethyl acetate. The organic layer is dried, and concentrated. The residue is purified by flash column chromatography eluting with 2:1 ethyl acetate:hexane to provide 563 mg of 2-(4-hydroxybutyl)-4-[(3,4,5-trimethoxyphenyl)amino]-thieno[2,3-b]pyridine-5-carbonitrile as a white solid, mp 125-127° C.; 1H NMR (DMSO-d6) δ 1.50 (m, 2H), 1.72 (m, 2H), 2.91 (t, J=7 Hz, 2H), 3.42 (m, 2H), 3.68 (s, 3H), 3.76 (s, 6H), 4.42 (t, J=5 Hz, 1H), 6.75 (s, 2H), 7.44 (s, 1H), 8.45 (s, 1H), 10.23 (s, 1H); MS 414.4 (M+H)+.

reactant | 4-[5-cyano-4-(3,4,5-trimethoxyphenylamino)-thieno[2,3-b]pyridin-2-yl]-butyric acid methyl ester | 2.5 mmol, 1.10 g | COC(CCCC1=CC=2C(=NC=C(C2NC2=CC(=C(C(=C2)OC)OC)OC)C#N)S1)=O | C22H23N3O5S
reactant | lithium borohydride | [BH4-].[Li+]
reactant | Methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mmol, 2.0 M, 10 mL | O1CCCC1 | C4H8O
product | 2-(4-hydroxybutyl)-4-[(3,4,5-trimethoxyphenyl)amino]-thieno[2,3-b]pyridine-5-carbonitrile | 563 mg | OCCCCC1=CC=2C(=NC=C(C2NC2=CC(=C(C(=C2)OC)OC)OC)C#N)S1 | C21H23N3O4S
